US09119868B2
A mixture of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide (402 mg, 1 mmol), 1,2-difluoro-4-nitrobenzene (318 mg, 2 mmol) and potassium carbonate (414 mg, 3 mmol) in 1,2-dimethoxyethane (20 mL) and water (5 mL) was heated at 100° C. for 48 hours. The solution was cooled to room temperature and concentrated, diluted with ethyl acetate (50 mL) and washed with water. The organic layer was dried over sodium sulfate, filtered, concentrated to dryness, and purified by column chromatography to afford 5-cyclopropyl-6-(N-(2-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (420 mg, 0.77 mmol, 77% yield) as a yellow solid. LCMS (m/z, ES+)=542 (M+H+)

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-[(methylsulfonyl)amino]-1-benzofuran-3-carboxamide | 1 mmol, 402 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)NS(=O)(=O)C | C20H19FN2O4S
reactant | 1,2-difluoro-4-nitrobenzene | 2 mmol, 318 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
product | 5-cyclopropyl-6-(N-(2-fluoro-4-nitrophenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.77 mmol, 420 mg, 77% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=C(C=C(C=C1)[N+](=O)[O-])F | C26H21F2N3O6S
